US07790903B2
Synthesis of N-(3-(4-methoxyphenoxy)propyl)-3-hydroxybenzylamine
3-(4-Methoxyphenoxy)propylamine (10.0 g) was dissolved in methanol (50 mL) at room temperature, a solution of 3-hydroxybenzaldehyde (6.7 g) in methanol (50 mL) was added dropwise within 5 minutes at water temperature (about 20° C.), and then the resulting mixture was stirred at room temperature for 20 hours. Then, sodium borohydride (2.1 g)/water (100 mL) was added dropwise at water temperature (about 20° C.) for 5 minutes, and the mixture was stirred at room temperature for 12 hours. Precipitates were removed, washed with water and then dried under reduced pressure at 80° C. for 5 hours. Pale yellow crystals were obtained (13.9 g, 87.4%).

reactant | 3-(4-Methoxyphenoxy)propylamine | 10.0 g | COC1=CC=C(OCCCN)C=C1 | C10H15NO2
reactant | 3-hydroxybenzaldehyde | 6.7 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | water | O | H2O
reactant | sodium borohydride | 2.1 g | [BH4-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | N-(3-(4-methoxyphenoxy)propyl)-3-hydroxybenzylamine | COC1=CC=C(OCCCNCC2=CC(=CC=C2)O)C=C1 | C17H21NO3
